### PR TITLE
feat: add `BitVec.[toInt_append|toFin_append]`

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR adds `BitVec.[toInt_append|toFin_append]`.

`toInt_append` states:

```lean
(x ++ y).toInt = if n == 0 then y.toInt else (2 ^ m) * x.toInt + y.toNat
```

We also add the following `Nat` theorem (derived from a corresponding theorem `two_pow_add_eq_or_of_lt`) as it faciliates the `append` proofs:

```lean
theorem shiftLeft_add_eq_or_of_lt {b : Nat} (b_lt : b < 2^i) (a : Nat) :
  a <<< i + b = a <<< i ||| b
```

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2660,6 +2660,55 @@ theorem msb_append {x : BitVec w} {y : BitVec v} :
...
+
+theorem toInt_append {x : BitVec n} {y : BitVec m} :
+    (x ++ y).toInt = if n == 0 then y.toInt else x.toInt * (2 ^ m) + y.toNat := by
+  by_cases n0 : n = 0
+  · subst n0
+    simp [BitVec.eq_nil x, BitVec.toInt]
+  · by_cases m0 : m = 0
+    · subst m0
+      simp [BitVec.eq_nil y, n0]
+    · simp [m0, n0]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:2682]: nonterminal simp

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Removed non-terminal simp.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2660,6 +2660,55 @@ theorem msb_append {x : BitVec w} {y : BitVec v} :
   rw [getElem_append] -- Why does this not work with `simp [getElem_append]`?
   simp [show i < w by omega]
 
+theorem toNat_append_lt {m n : Nat} (x : BitVec m) (y : BitVec n) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2663]:
```suggestion
/--
Helper lemma for `toInt_append` which establishes that
`(x.toNat <<< n) ||| `y.toNat` is within bounds of `BitVec (m + n)`.
-/
protected theorem toNat_shiftLeft_or_toNat_lt_two_pow_add {m n : Nat} (x : BitVec m) (y : BitVec n) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2660,6 +2660,55 @@ theorem msb_append {x : BitVec w} {y : BitVec v} :
...
+  intros h
+  subst h
+  simp [BitVec.eq_nil x]
+
+@[simp] theorem toInt_zero_append {n m : Nat} {x : BitVec n} :
+    (0#m ++ x).toInt = if m = 0 then x.toInt else x.toNat := by
+  simp [toInt_append]
+
+@[simp] theorem toFin_append {x : BitVec m} {y : BitVec n} :
+    (x ++ y).toFin = @Fin.mk (2^(m+n)) (x.toNat <<< n ||| y.toNat) (toNat_append_lt x y) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2708]:
```suggestion
    (x ++ y).toFin = @Fin.mk (2^(m+n)) (x.toNat <<< n ||| y.toNat)
        (toNat_shiftLeft_or_toNat_lt_two_pow_add x y) := by
```

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Renamed.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: I renamed the theorem as suggested, added a comment, and also moved this theorem right before `toFin_append`. I did title this `helper lemma` as future users may be beyond `toFin_append`, but the closeness to `toFin_append` should now hopefully make this clear.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2660,6 +2660,59 @@ theorem msb_append {x : BitVec w} {y : BitVec v} :
   rw [getElem_append] -- Why does this not work with `simp [getElem_append]`?
   simp [show i < w by omega]
 
+theorem toInt_append {x : BitVec n} {y : BitVec m} :
+    (x ++ y).toInt = if n == 0 then y.toInt else x.toInt * (2 ^ m) + y.toNat := by
```
[the remark this answers is not in the document]
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:2664]: Otherwise looks good.

[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: I put this on the right.

**Comment by tobiasgrosser** [comment]
changelog-library

**Comment by tobiasgrosser** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2660,6 +2660,63 @@ theorem msb_append {x : BitVec w} {y : BitVec v} :
...
+        rw [Int.natCast_add, Nat.mul_comm (n := 2 ^ n)]
+        omega
+      case neg h =>
+        rw [Bool.not_eq_true] at h
+        rw [toInt_eq_toNat_of_msb h, toInt_eq_toNat_of_msb (by simp [msb_append, n0, h])]
+        rw_mod_cast [toNat_append, ← Nat.shiftLeft_add_eq_or_of_lt (by omega), Nat.shiftLeft_eq,
+          Nat.mul_comm]
+
+@[simp] theorem toInt_append_zero {n m : Nat} {x : BitVec n} :
+    (x ++ 0#m).toInt = x.toInt * (2 ^ m) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2689]: Here too.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Resolved.
